US08304446B2
2,4-Difluoro-6-methoxybenzonitrile
2,4-Difluoro-6-methoxybenzaldehyde (for a preparation see Intermediate 47) (34.5 g, 0.20 mol) and hydroxylamine-o-sulfonic acid (24.95 g, 0.22 mol) were charged to a round-bottom flask. Water (500 mL) was added and the suspension was heated at 110° C. for 3 h. After TLC shows reaction to be complete, it was cooled in ice-water and extracted thrice with ethyl acetate. The organic solutions were dried (MgSO4) and evaporated, and the residue was purified by dry flash chromatography (DCM eluent) to give the title compound (32.05 g, 95%) as a pale pink solid.

reactant | 2,4-Difluoro-6-methoxybenzaldehyde | FC1=C(C=O)C(=CC(=C1)F)OC | C8H6F2O2
reactant | hydroxylamine-o-sulfonic acid | 0.22 mol, 24.95 g | NOS(=O)(=O)O | H3NO4S
solvent | Water | 500 mL | O | H2O
product | 2,4-Difluoro-6-methoxybenzonitrile | 32.05 g, 95% | FC1=C(C#N)C(=CC(=C1)F)OC | C8H5F2NO
